US09340549B2
To a 50 mL dried round bottom flask containing a degassed solution of 4-phenyl-1-oxa-3-azaspiro[4.4]nonan-2-one (1 eq., 1.73 mmol) and 4-iodo-N-(quinolin-8-yl)benzamide (1.2 eq.) in DMF (15 mL), potassium carbonate (2.5 eq.) and trans (N,N)-dimethyl cyclohexanediamine (0.5 eq.) was added CuI (0.1 eq). The resulting mixture was stirred at 120° C. for 15 hours. Reaction progress was monitored by TLC (TLC eluent: 10% MeOH in DCM). The reaction mixture was cooled and poured into crushed ice (5 g). The solid thus obtained was filtered, washed with water (25 mL) and dissolved in DCM. The DCM solution was then washed with water (100 mL), washed brine (50 mL) and dried over anhydrous Na2SO4, filtered, concentrated and purified by column chromatography using silica gel and DCM as eluting solvent to yield (R+S) 4-(2-oxo-4-phenyl-1-oxa-3-azaspiro[4.4]nonan-3-yl)-N-(quinolin-8-yl)benzamide (90 mg, 11%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 10.55 (s, 1H), 8.94 (d, J=4 Hz, 1H), 8.65 (d, J=7.2 Hz, 1H), 8.44 (d, J=8.4 Hz, 1H), 7.95 (d, J=8.4 Hz, 1H), 7.75-7.63 (m, 5H), 7.39-7.32 (m, 5H), 5.75 (s, 1H), 2.10-2.20 (m, 2H), 1.50-1.78 (s, 4H), 1.30-1.40 (m, 1H), 1.10-1.20 (m, 1H). m/z (ESI) 464.3 (M+H)+.

reactant | 4-phenyl-1-oxa-3-azaspiro[4.4]nonan-2-one | 1.73 mmol, 1 eq. | C1(=CC=CC=C1)C1NC(OC12CCCC2)=O | C13H15NO2
reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 1.2 eq. | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | potassium carbonate | 2.5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.1 eq | [Cu]I
product | 4-(2-oxo-4-phenyl-1-oxa-3-azaspiro[4.4]nonan-3-yl)-N-(quinolin-8-yl)benzamide | 90 mg, 11% | O=C1OC2(C(N1C1=CC=C(C(=O)NC=3C=CC=C4C=CC=NC34)C=C1)C1=CC=CC=C1)CCCC2 | C29H25N3O3
